US08227492B2
Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-chloroacetyl Sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide (0.5 g, 0.001 mol) and pyridine (2 mL) in DCM (20 mL) was added Chloroacetyl chloride (244 mg, 0.00215 mol) at 0° C. After few minutes, reaction mixture was diluted with water (10 ml). Organic layer was separated, dried and distilled out to get 300 mg of desired product in 52% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide | 0.001 mol, 0.5 g | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=N)C | C20H16Cl2N4O3S
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | Chloroacetyl chloride | 0.00215 mol, 244 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-chloroacetyl Sulfoximide | 300 mg, 52% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(CCl)=O)C | C22H17Cl3N4O4S
